US06762330B2
A 20 mL of reactor equipped with magnetic stir bar was charged with 93 mg (0.10 mmol) of {[(t-Bu)2P(OH)]2PdCl}2, 0.314 g (2.0 mmol) of bromobenzene, 0.404 g (2.0 mmol) of di-phenylphosphine oxide and 0.276 g (2.0 mmol) of K2CO3 in 5.0 mL of 1,4-dioxane. The resulting mixture was refluxed for 8 h to afford tri-phenylphosphine oxide. 31P NMR (CDCl3, 121 MHz): δ30.3 ppm.

reactant | bromobenzene | 2.0 mmol, 0.314 g | BrC1=CC=CC=C1 | C6H5Br
reactant | di-phenylphosphine oxide | 2.0 mmol, 0.404 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)=O | C12H11OP
reactant | K2CO3 | 2.0 mmol, 0.276 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | tri-phenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
